US04762848
4-Carboxy-2-carboxyethylthio-1,3-thiazole
6.9 g of bromopropionic acid were dissolved in 100 ml of water, and the pH was adjusted to 7 with 1N NaOH. This solution was added dropwise to a suspension of 7.5 g of 4-ethoxycarbonyl-2-mercapto-1,3-thiazole in 75 ml of H2O. The pH was adjusted to 8-10 with 2N NaOH, and the mixture was stirred at room temperature for 4 h and at 60° C. for 2 h. The pH was maintained between 8 and 10. While cooling in ice, the mixture was acidified to pH 1 with 2N HCl, and the product was filtered off.

reactant | bromopropionic acid | 6.9 g | BrC(C(=O)O)C | C3H5BrO2
reactant | NaOH | 1N | [OH-].[Na+]
reactant | 4-ethoxycarbonyl-2-mercapto-1,3-thiazole | 7.5 g | C(C)OC(=O)C=1N=C(SC1)S | C6H7NO2S2
reactant | NaOH | 2N | [OH-].[Na+]
reactant | HCl | 2N | Cl | ClH
solvent | water | 100 ml | O | H2O
solvent | H2O | 75 ml | O | H2O
product | 4-Carboxy-2-carboxyethylthio-1,3-thiazole | C(=O)(O)C=1N=C(SC1)SCCC(=O)O | C7H7NO4S2
